US07335658B2
4-[6-(2-CYCLOPROPYLETHYLCARBAMOYL)PYRIDAZIN-3-YL]PIPERAZINE-1-CARBOXYLIC ACID T-BUTYL ESTER
Following the procedure of Example 15, making variations only as required to use 6-chloropyridazine-3-carboxylic acid (2-cyclopropylethyl)amide in place of 6-chloropyridazine-3-carboxylic acid (2-cyclopropyl-2-hydroxyethyl)amide to react with piperazine-1-carboxylic acid t-butyl ester, the title compound was obtained as a white solid (47% yield). 1H NMR (400 MHz, CDCl3) δ 8.04-7.95, 6.97, 3.62-3.54, 1.59-1.44, 1.34-1.23, 0.72-0.62, 0.45-0.36, 0.06-0.04. MS (ES+) m/z 376.3 (M+1).

reactant | 6-chloropyridazine-3-carboxylic acid (2-cyclopropylethyl)amide | C1(CC1)CCNC(=O)C=1N=NC(=CC1)Cl | C10H12ClN3O
reactant | piperazine-1-carboxylic acid t-butyl ester | C(C)(C)(C)OC(=O)N1CCNCC1 | C9H18N2O2
product | 4-[6-(2-CYCLOPROPYLETHYLCARBAMOYL)PYRIDAZIN-3-YL]PIPERAZINE-1-CARBOXYLIC ACID T-BUTYL ESTER | C(C)(C)(C)OC(=O)N1CCN(CC1)C=1N=NC(=CC1)C(NCCC1CC1)=O | C19H29N5O3
